US09315467B2
Preparation of 4-(6-m-Tolyl-pyrimidin-4-yl)-benzoic acid (Compound 2)
Part A. A 50 mL three-neck round-bottom flask is charged with 2,4-dichloropyrimidine (0.58 g, 3.89 mmol), 3-methylphenylboronic acid (0.31 g, 2.28 mmol), Na2CO3 (0.73 g, 6.88 mmol), tetrakis(triphenylphosphine) palladium (13.0 mg, 1.12×10−2 mmol). The flask is evacuated, and refilled with N2. DMF (15 mL, anhydrous) is then added to the flask. The flask is evacuated again, and refilled with N2, repeated two times. The reaction is heated to 100° C. overnight. The reaction mixture is partitioned between ethyl ether and water. The organic layer is washed with brine, dried over MgSO4, and then removed. The residue is further purified by flash column chromatography, eluting with methylene chloride/hexanes (1:10) to afford 45.7 mg (5.8% yield) of desired product. The obtained compound (4-chloro-6-m-tolyl-pyrimidine) is >80% pure as determined by LC-MS. MS (ES+): m/e 205.23.

reactant | 2,4-dichloropyrimidine | 3.89 mmol, 0.58 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 3-methylphenylboronic acid | 2.28 mmol, 0.31 g | CC=1C=C(C=CC1)B(O)O | C7H9BO2
reactant | Na2CO3 | 6.88 mmol, 0.73 g | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine) palladium | 1.12×10−2 mmol, 13.0 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(6-m-Tolyl-pyrimidin-4-yl)-benzoic acid | 45.7 mg, 5.8% yield | C1(=CC(=CC=C1)C1=CC(=NC=N1)C1=CC=C(C(=O)O)C=C1)C | C18H14N2O2
